US09278950B2
Step 1. Benzyl {7-bromo-2-[({4-[(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]quinolin-3-yl}carbamate
To a mixture of 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylic acid (0.50 g, 1.2 mmol), tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-(trifluoromethyl)piperidin-3-yl]carbamate (0.45 g, 1.2 mmol) and HATU (1.2 g, 3.1 mmol) in DMF (4.9 mL), DIPEA (0.65 mL, 3.7 mmol) was added. The mixture was stirred at room temperature for 2 h, then quenched with 50 mL of EtOAc and 30 mL of 1 M NaOH. The layers were separated and the aqueous phase was extracted with EtOAc. The combined organics were concentrated under reduced pressure. The residue was purified by flash chromatography on a 40 g silica gel column, eluting with 0-100% EtOAc in hexanes, to give the sub-title compound (0.492 g, 53%). LCMS calc. for C34H35BrF3N6O5 [M+H]+: m/z=743.2. found: 743.3.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylic acid | 1.2 mmol, 0.50 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)O | C18H13BrN2O4
reactant | tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-(trifluoromethyl)piperidin-3-yl]carbamate | 1.2 mmol, 0.45 g | NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C(F)(F)F)NC(OC(C)(C)C)=O | C16H23F3N4O2
reactant | HATU | 3.1 mmol, 1.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.7 mmol, 0.65 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4.9 mL | CN(C)C=O | C3H7NO
product | Benzyl {7-bromo-2-[({4-[(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]quinolin-3-yl}carbamate | 0.492 g, 53% | BrC1=CC=C2C=C(C(=NC2=C1)C(=O)NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C(F)(F)F)NC(=O)OC(C)(C)C)NC(OCC1=CC=CC=C1)=O | C34H34BrF3N6O5
